US06194410B1
0.1 g (1 mmol) of 1-methyl-piperazine in 3 ml of CH2Cl2 was added to a solution of 0.37 g (1 mmol) of 3-benzenesulphonyl-5,7-dichloro-2-methylsulphanyl-pyrazolo[1,5-a]-pyrimidine in 20 ml of CH2Cl2 and stirred at RT for 1 hr. The mixture was poured on to ice-water, adjusted to pH8 with NaHCO3 solution and extracted three times with 30 ml of CH2Cl2. The combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (silica gel, CH2Cl2/MeOH 4:1) yielded 0.38 g (86%) of 3-benzenesulphonyl-5-chloro-7-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine as colorless crystals, m.p.>230°.

reactant | 1-methyl-piperazine | 1 mmol, 0.1 g | CN1CCNCC1 | C5H12N2
reactant | 3-benzenesulphonyl-5,7-dichloro-2-methylsulphanyl-pyrazolo[1,5-a]-pyrimidine | 1 mmol, 0.37 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)Cl)SC | C13H9Cl2N3O2S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-benzenesulphonyl-5-chloro-7-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.38 g, 86% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C)Cl)SC | C18H20ClN5O2S2
